US07022851B2
1-(4-Methyl-2-nitro-benzenesulfonyl)-4-[(thymin-1-yl)-acetyl]-piperazin-2-one
The title compound (888 mg, 95%) was synthesized by reaction of 1-(4-methyl-2-nitro-benzenesulfonyl)-piperazin-2-one HCl salt (672 mg, 2.0 mmol) with (thymin-1-yl)-acetic acid (369 mg, 2.0 mmol) as per the procedure of example 64. 1H-NMR (500 MHz; DMSO-d6) δ 11.33 (s, 0.6H), 11.32(s, 0.4H), 8.22(m, 1H), 7.96(s, 1H), 7.78(m, 1H), 7.35(s, 0.6H), 7.28(s, 0.4H), 4.66(s, 1.2H), 4.58 (s, 0.8H), 4.39 (s, 0.8H), 4.24 (s, 1.2H), 4.01 (m, 1.2H), 3.93 (m, 1.2H), 3.88˜3.81 (m, 1.6H), 2.49 (s, 3H), 1.74 (s, 3H).

reactant | 1-(4-methyl-2-nitro-benzenesulfonyl)-piperazin-2-one HCl salt | 2.0 mmol, 672 mg | Cl.CC1=CC(=C(C=C1)S(=O)(=O)N1C(CNCC1)=O)[N+](=O)[O-]
reactant | (thymin-1-yl)-acetic acid | 2.0 mmol, 369 mg | N1(C(=O)NC(=O)C(C)=C1)CC(=O)O | C7H8N2O4
product | 1-(4-Methyl-2-nitro-benzenesulfonyl)-4-[(thymin-1-yl)-acetyl]-piperazin-2-one | 888 mg, 95% | CC1=CC(=C(C=C1)S(=O)(=O)N1C(CN(CC1)C(CN1C(=O)NC(=O)C(C)=C1)=O)=O)[N+](=O)[O-] | C18H19N5O8S
